US06436954B1
A mixture of N-benzyl-pyrrolidin-2-one-4-carboxylic acid (3.7 mmol, 860 mg), thionyl chloride (8 mL) and pyridine (1 drop) was heated at 65-70° C. for 20 min. The pale yellow solution was evaporated in vacuo. The resulting acid chloride was dissolved in benzene (16 mL) and added within 30 min to a suspension of AlCl3 (122 mmol, 16.3 g) in benzene (40 mL). The suspension was heated at 55° C. for 30 min and then at 65° C. for 5 min. The mixture was then cooled and hydrolyzed with a minimum amount of water and ice. The aqueous phase was extracted with CH2Cl2 (2×30 mL). The organic phase was washed with water, aqueous NaOH (1 N) and more water, dried with Na2SO4 and concentrated in vacuo to give an oil. Acetone and ether was added to the oil and precipitate formed overnight. The precipitate was filtered and dried in vacuo to give 1,2,3,5,10,10a-hexahydropyrrolo[1,2-b]isoquinolin-3,10-dione acid as a yellow solid (557 mg): mp 105-107° C. (lit. mp 107-108° C.); 1H NMR (300 MHz) δ 8.09 (dd, J=7.8, 0.9 Hz, 1 H), 7.60 (td, J=7.5, 1.3 Hz, 1 H), 7.42 (t, J=7.6 Hz, 1 H), 7.33 (d, J=7.7 Hz, 1 H), 5.28 (d, J=17.5 Hz, 1 H), 4.37 (d, J=17.5 Hz, 1 H), 4.32 (m, 1 H), 2.50 (m, 4 H); 13C NMR (75 MHz) δ 194.03, 173.79, 139.62, 134.36, 130.08, 127.71, 127.59, 126.42, 61.64, 41.32, 29.78, 20.45.

reactant | N-benzyl-pyrrolidin-2-one-4-carboxylic acid | 3.7 mmol, 860 mg | C(C1=CC=CC=C1)N1C(CC(C1)C(=O)O)=O | C12H13NO3
reactant | thionyl chloride | 8 mL | S(=O)(Cl)Cl | Cl2OS
reactant | AlCl3 | 122 mmol, 16.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | water | O | H2O
reactant | benzene | 40 mL | C1=CC=CC=C1 | C6H6
catalyst | pyridine | 1 drop | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
solvent | Acetone | CC(=O)C | C3H6O
product | 1,2,3,5,10,10a-hexahydropyrrolo[1,2-b]isoquinolin-3,10-dione | 557 mg | C1CC(N2CC=3C=CC=CC3C(C21)=O)=O | C12H11NO2
